US08309580B2
(2) ethyl 5-(1,3-dioxolan-2-yl)-2-ethylthiophene-3-carboxylate
To a mixture of ethyl 2-ethyl-5-formylthiophene-3-carboxylate (7.82 g) synthesized above, 1,2-bis(trimethylsiloxy)ethane (9.93 mL) and methylene chloride (80 mL) was added trimethylsilyl trifluoromethanesulfonate (661 μL) at −78° C., and the mixture was stirred for 2 hr under a nitrogen atmosphere. Pyridine (890 μL) was added to quench the reaction, and saturated aqueous sodium hydrogen carbonate solution was added. Methylene chloride was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (9.71 g, quantitative) as a yellow oil.

reactant | ethyl 2-ethyl-5-formylthiophene-3-carboxylate | 7.82 g | C(C)C=1SC(=CC1C(=O)OCC)C=O | C10H12O3S
reactant | 1,2-bis(trimethylsiloxy)ethane | 9.93 mL | C[Si](OCCO[Si](C)(C)C)(C)C | C8H22O2Si2
reactant | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyl trifluoromethanesulfonate | 661 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | Pyridine | 890 μL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-(1,3-dioxolan-2-yl)-2-ethylthiophene-3-carboxylate | 9.71 g | O1C(OCC1)C1=CC(=C(S1)CC)C(=O)OCC | C12H16O4S
